US08221905B2
The 500 mL round-bottom flask, equipped with magnetic stirrer and reflux condenser was charged with 5-chloro-2-methoxyphenylboronic acid (9.78 g, 52 mmol), 3-amino-2-chloropyridine (7.00 g, 55 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos, 0.43 g, 2 mol %), palladium (II) acetate (112 mg, 1 mol %), potassium carbonate (21.7 g, 157 mmol), 180 mL of acetonitrile and 20 ml of water. The flask was filled with nitrogen and heated to reflux under nitrogen atmosphere for 24 hours. Then the reaction was cooled down to room temperature, diluted with 500 mL of water and extracted with ethyl acetate (5×40 mL). Organic fractions were combined, dried over sodium sulfate, filtered and evaporated. The residue was subjected to column chromatography on silica gel with eluent hexane/ethyl acetate gradient mixture, providing 2-(5-chloro-2-methoxyphenyl)pyridin-3-amine as white crystals (9.5 g, NMR confirmed the structure).

reactant | 5-chloro-2-methoxyphenylboronic acid | 52 mmol, 9.78 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | 3-amino-2-chloropyridine | 55 mmol, 7.00 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.43 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium carbonate | 157 mmol, 21.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 500 mL | O | H2O
catalyst | palladium (II) acetate | 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 20 ml | O | H2O
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | 2-(5-chloro-2-methoxyphenyl)pyridin-3-amine | ClC=1C=CC(=C(C1)C1=NC=CC=C1N)OC | C12H11ClN2O
